US04091102
A mixture of 40.8 g. N-acetyl-1-phenyltryptamine (IIIa), 800 ml. dry benzene and 220 g. phosphorus oxychloride is refluxed for 1 hour. After cooling, the reaction mixture is poured into two liters of cold water with continued stirring and cooling for 1.5 hours. The organic layer is separated, washed twice with water and the aqueous fractions combined and backwashed once with ethyl acetate. The aqueous extract (total volume 3 liters) is treated with one liter of 10% NaOH, followed by one liter of 50% NaOH while stirring and cooling in an ice bath. The product precipitates from the cooled solution and is filtered and washed well with water to remove any co-precipitated inorganic material. Upon drying, 34 g. of 4,9-dihydro-1-methyl-9-phenyl-3H-pyrido[3,4-b]indole, (IVa), m.p. 110°-112° C. is obtained. An analytical sample had a m.p. 110°-112° C. (benzene-petroleum ether).

reactant | N-acetyl-1-phenyltryptamine | C(C)(=O)NCCC1=CN(C2=CC=CC=C12)C1=CC=CC=C1 | C18H18N2O
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | water | two liters | O | H2O
product | 4,9-dihydro-1-methyl-9-phenyl-3H-pyrido[3,4-b]indole | CC1=NCCC2=C1N(C1=CC=CC=C21)C2=CC=CC=C2 | C18H16N2
